US07345178B2
[6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-methanol (110 mg, 0.4 mmol) in CH2Cl2 (5 ml) with triethylamine (56 ul, 1 eq) was cooled to 0° C. Methylsulfonyl chloride (31 ul, 1 eq) was added dropwise, stirred at 0° C. for 10 min, warmed to room temperature, and stirred for 15 min. The reaction was quenched by the addition of brine, and the mesylate was extracted with CH2Cl2, dried over Na2SO4 and concentrated. The residue was dissolved in acetonitrile (3 ml), and added triethylamine (31 ul, 1 eq), followed by pyrrolidine (66 ul, 2 eq). The reaction mixture was stirred for 2 hours, concentrated and chased with pentane. Column chromatography in CH2Cl2 (0 to 4% MeOH gradient) gave 6-(2-Nitro-phenyl)-3-pyrrolidin-1-ylmethyl-imidazo[2,1-b]thiazole. This material was dissolved in methanol (16 ml) and a solution of sodium hydrogen sulfide (112 mg, 5 eq) in water (4 ml) was added. The reaction mixture was refluxed for 2 days with additional charges of NaHS (2×112 mg). The reaction was concentrated to remove the methanol, and the aqueous solution was extracted with CH2Cl2 (3×40 ml). The organic layer was dried over Na2SO4, and concentrated to obtain the product as a yellow film, 109 mg. (MS, M++H=299.1)

reactant | [6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-methanol | 0.4 mmol, 110 mg | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2SC=C(N2C1)CO | C12H9N3O3S
reactant | triethylamine | 56 ul, 1 eq | C(C)N(CC)CC | C6H15N
reactant | Methylsulfonyl chloride | 31 ul, 1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 31 ul, 1 eq | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 66 ul, 2 eq | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-(2-Nitro-phenyl)-3-pyrrolidin-1-ylmethyl-imidazo[2,1-b]thiazole | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2SC=C(N2C1)CN1CCCC1 | C16H16N4O2S
